US07342115B2
A solution of LiAlH4 (1 M in THF, 20 mL) is added dropwise to a solution of 6-(2,6-diethyl-phenyl)-4-ethoxy-2-methyl-nicotinic acid ethyl ester (2.3 g, 6.7 mmol) in THF (20 mL). The reaction mixture is stirred at room temperature for 4 hours, diluted with ether (10 mL), and quenched with Na2SO4.10H2O (10 g). The resulting mixture is stirred for one hour, filtered through Celite, and concentrated in vacuo to give [6-(2,6-diethyl-phenyl)-4-ethoxy-2-methyl-pyridin-3-yl]-methanol.

reactant | LiAlH4 | 1 M, 20 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 6-(2,6-diethyl-phenyl)-4-ethoxy-2-methyl-nicotinic acid ethyl ester | 6.7 mmol, 2.3 g | C(C)OC(C1=C(N=C(C=C1OCC)C1=C(C=CC=C1CC)CC)C)=O | C21H27NO3
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | ether | 10 mL | CCOCC | C4H10O
product | [6-(2,6-diethyl-phenyl)-4-ethoxy-2-methyl-pyridin-3-yl]-methanol | C(C)C1=C(C(=CC=C1)CC)C1=CC(=C(C(=N1)C)CO)OCC | C19H25NO2
